US06265350B1
2-(2,6-Difluorophenyl)4-(4-bromophenyl)oxazoline (VP4) (5.00 g, 14.8 mmol) was mixed with 2-ethoxy-5-trimethylstannylpyridine (VP8) (5.06 g, 17.8 mmol), Pd(PPh3)4 (0.68 g, 0.59 mmol) and lithium chloride (0.12 g, 2.9 mmol) in dioxane (40 ml) and the mixture was refluxed under nitrogen (7 hours). After extraction and chromatography, 2-(2,6-difluorophenyl)4-[4-(2-ethoxypyridin-5-yl)phenyl]oxazoline was obtained, 3.86 g, m.p. 119° C.; 1H NMR (CDCl3, ppm): 1.42, 4.35, OCH2CH3; 4.40, 4.84, 5.51, oxazoline; 6.79, 7.77, 8.36, pyridine; 7.00, 7.41, 7.54, phenyl.

reactant | 2-(2,6-Difluorophenyl)4-(4-bromophenyl)oxazoline | 14.8 mmol, 5.00 g | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)Br | C15H10BrF2NO
reactant | 2-ethoxy-5-trimethylstannylpyridine | 17.8 mmol, 5.06 g | C(C)OC1=NC=C(C=C1)[Sn](C)(C)C
reactant | lithium chloride | 2.9 mmol, 0.12 g | [Cl-].[Li+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.59 mmol, 0.68 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,6-difluorophenyl)4-[4-(2-ethoxypyridin-5-yl)phenyl]oxazoline | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)C=1C=CC(=NC1)OCC | C22H18F2N2O2
